US07282512B2
(1-Benzylcyclopentyl)methyl(1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate was prepared as in example 6c except that (1-benzylcyclopentyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate was substituted for (1-benzylcyclobutyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate. M.P.=108-110° C. Elemental analysis: Theory; C=72.77%, H=8.00%, N=5.85%. Found; C=72.62%, H=8.00%, N=5.84%. 1H NMR (300 MHz, 80° C., DMSO-d6) δ 8.82 (d, J=8 Hz, 1H), 7.19-7.39 (m, 11H), 5.02 (qnt, J=7 Hz, 1H), 4.86 (m, 1H), 3.69 (d, J=3 Hz, 2H), 2.69 (s, 2H), 1.20-1.65 (m, 17H), 0.87 (t, J=7 Hz, 3H). ES-LCMS m/z 501 (M+Na). HRMS C29H38N2O4 m/z 501.2729 (M+Na)Cal; 501.2731 (M+Na)Obs.

reactant | (1-benzylcyclopentyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(OCC1(CCCC1)CC1=CC=CC=C1)=O | C29H40N2O4
reactant | (1-benzylcyclobutyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(OCC1(CCC1)CC1=CC=CC=C1)=O | C28H38N2O4
product | (1-Benzylcyclopentyl)methyl(1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate | O=C(C(=O)[C@H](CCCC)NC(OCC1(CCCC1)CC1=CC=CC=C1)=O)N[C@H](C)C1=CC=CC=C1 | C29H38N2O4
